*
* NGSPICE simulation script
*Title: t2.4
*

* forces current values to be saved
.options savecurrents


*voltage sources
Vs 1 0 sin (0 1 1k) 

Vnull 0 0b 0.V

Hvd 5 8 Vnull 8.32372114868kOhm


*current sources
Gib 6 3 2 5 7.32338601881mS

*capacitor
C 6 8 1.00970251859uF
.ic V(0) = 0 V(0b) = 0 V(1) = 0 V(2) = 0 V(3) = 0 v(5) = 0 V(6) = 8.747018e+00 V(7) = 0 V(8) = 0

*resistors
R1 1 2 1.02738610688kOhm

R2 3 2 2.03394761163kOhm

R3  2 5 3.13880655715kOhm

R4 5 0 4.00338881943kOhm

R5 6 5 3.07163426496kOhm

R6 0b 7 2.05278260557kOhm

R7 7 8 1.01283324471kOhm

.op
.end


*Control comands
.control

*makes plots in color
set hcopypscolor=1
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
echo  "op_TAB"
*print @Vs[i] @Hvd[i] 
print all
echo  "op_END"

echo "********************************************"
echo  "Transient analysis"
echo "********************************************"
tran 1e-5 20e-3

hardcopy t2.4.ps V(6) V(1)

.endc
